US05082945
Perfluorohexyl iodide (4.5 g), sodium hydroxymethanesulphinate (4 g) and phenyl disulphide (2.2 g) in dimethylformamide (10 cc) and water (0.5 cc) are stirred for 12 hours. After the usual treatment, phenyl perfluorohexyl sulphide is obtained in 40% yield.

reactant | Perfluorohexyl iodide | 4.5 g | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)I | C6F13I
reactant | sodium hydroxymethanesulphinate | 4 g | OCS(=O)[O-].[Na+]
reactant | phenyl disulphide | 2.2 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
solvent | water | 0.5 cc | O | H2O
product | phenyl perfluorohexyl sulphide | 40% yield | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)SC1=CC=CC=C1 | C12H5F13S
